US07834021B2
4-Hydroxy-4-[4-(1,3-oxazol-2-yl)phenyl]cyclohexanone.
To a solution of oxazole (240 mg, 3.5 mmol) in THF (5 mL) at −78° C. was added n-BuLi (1.6 M, 2.6 mL). After the mixture was stirred for 1 hour, a solution of zinc chloride in THF (0.5 M, 8.2 mL) was added in and the resulting mixture was allowed to warm to 0° C. over 1 hour. To the mixture was added 8-(4-iodo-phenyl)-1,4-dioxa-spiro[4.5]decan-8-ol (1.35 g, 3.5 mmol) and the resulting mixtue was degassed with N2 for 3 times. To a suspension of PdCl2(PPh3)2 (122 mg, 5%) in THF (2 mL) was added nBuLi (1.6 M, 0.26 mL) and the mixture was added into the above mixture. The resulting mixture was heated to reflux under N2 for 4 hours. The resulting mixture was diluted with ethyl acetate (50 mL). The organic layer was filtered through Celite and the filtrate was washed with saline solution (2×10 mL), dried over sodium sulfate, and concentrated in vacuo. The residue was dissolved in THF (2.5 mL) and was treated with 5% HCl (22.5 mL) at rt for 24 h. The mixture was neutralized with 1 N NaOH to pH 7, concentrated on rotvap, and then extracted with EtOAc (2×50 mL). The organic extracts were combined, washed with saline solution (2×50 mL), dried over sodium sulfate, concentrated in vacuo. The resulting residue was chromatographed on silica gel, eluting with hexane/ethyl acetate (100/0 to 100/0), to provide the desired compound (0.56 g, 62% for the two steps). LCMS: 258.2 (M+H+, 100%). 1H NMR: (CDCl3) δ 8.06 (d, 2H), 7.73 (s, 1H), 7.63 (d, 2H), 2.99-2.91 (m, 2H), 2.42-2.30 (m 4H), 2.22-2.05 (m, 2H).

reactant | oxazole | 3.5 mmol, 240 mg | O1C=NC=C1 | C3H3NO
reactant | n-BuLi | 1.6 M, 2.6 mL | [Li]CCCC
reactant | 8-(4-iodo-phenyl)-1,4-dioxa-spiro[4.5]decan-8-ol | 3.5 mmol, 1.35 g | IC1=CC=C(C=C1)C1(CCC2(OCCO2)CC1)O | C14H17IO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 M, 8.2 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 4-Hydroxy-4-[4-(1,3-oxazol-2-yl)phenyl]cyclohexanone | OC1(CCC(CC1)=O)C1=CC=C(C=C1)C=1OC=CN1 | C15H15NO3
